US06217793B1
{circle around (1)}: A solvent comprising 1.1 g of triethylamine and 5 g of toluene was added dropwise to a mixture comprising 2.28 g of benzyl 4-hydroxybenzoate, 2.33 g of n-tridecanoic chloride and 15 g of toluene in 30 minutes while cooling it with ice. After finishing adding dropwise, the mixture was stirred at room temperature for 3 hours. After finishing the reaction, deposited salts were filtered off, and the filtrate was neutralized with ½ N hydrochloric acid and washed with water. Then, toluene was distilled off under reduced pressure, and the resultant residue was recrystallized from ethanol, whereby 3.52 g of benzyl 4-n-dodecylcarbonyloxybenzoate was obtained in the form of a colorless crystal.

reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | benzyl 4-hydroxybenzoate | 2.28 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | n-tridecanoic chloride | 2.33 g | C(CCCCCCCCCCCC)(=O)Cl | C13H25ClO
solvent | toluene | 15 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 g | C1(=CC=CC=C1)C | C7H8
product | benzyl 4-n-dodecylcarbonyloxybenzoate | 3.52 g | C(CCCCCCCCCCC)C(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C27H36O4
